US07732605B2
N-2-oxo-propanoyl-L-phenylalanine amide
A suspension of HCl.H-Phe-NH2 (1.0 g, 4.98 mmol) in DCM (49 mL) was neutralized with Et3N (0.69 mL, 4.98 mmol) at 4° C. To this mixture were added HOBt.H2O (0.76 g, 4.98 mmol), pyruvic acid (0.52 mL, 7.47 mmol), and EDC.HCl (1.05 g, 5.47 mmol), and the mixture was stirred at 4° C. for 30 min and at room temperature for 2 h. After removal of the solvent in vacuo, the residue was dissolved in AcOEt, successively washed with 10% citric acid, 5% NaHCO3 and saturated NaCl for three times, dried over Na2SO4, and concentrated in vacuo to obtain 0.76 g (65%) of the title compound as a white solid: mp 138-140° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.34 (d, J=8.6 Hz, 1H), 7.52 (s, 1H), 7.24-7.19 (m, 6H), 4.45-4.37 (m, 1H), 3.11 (dd, J=4.2, 13.8 Hz, 1H), 2.96 (dd, J=9.5, 13.8 Hz, 1H), 2.26 (s, 3H); HRMS (EI): m/z 234.1008 (M+) (calcd for C12H14N2O3: 234.1004).

reactant | HCl | Cl | ClH
reactant | H-Phe-NH2 | 4.98 mmol, 1.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
reactant | Et3N | 4.98 mmol, 0.69 mL | CCN(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 4.98 mmol, 0.76 g | O | H2O
reactant | pyruvic acid | 7.47 mmol, 0.52 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | EDC.HCl | 5.47 mmol, 1.05 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 49 mL | C(Cl)Cl | CH2Cl2
product | N-2-oxo-propanoyl-L-phenylalanine amide | 0.76 g, 65% | O=C(C(=O)NC([C@@H](N)CC1=CC=CC=C1)=O)C | C12H14N2O3
